2115-02-21 07:18:00 Physician Resident Progress Note
24 Hour Events:
   No events overnight. Pt w/ SBP in 60s-80s. Remains intubated. Appears
   comfortable.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2115-2-20**] 12:15 PM
   Vancomycin - [**2115-2-20**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2115-2-21**] 12:10 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2115-2-20**] 09:30 AM
   Pantoprazole (Protonix) - [**2115-2-20**] 09:00 PM
   Dilantin - [**2115-2-21**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-2-21**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38
C (100.4
   HR: 71 (49 - 94) bpm
   BP: 70/48(54) {62/44(49) - 108/81(88)} mmHg
   RR: 29 (16 - 41) insp/min
   SpO2: 100% on PS FiO2 50%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 29.3 kg (admission): 32.3 kg
   Height: 55 Inch
    CVP: 14 (9 - 17)mmHg
   Total In:
                                                                  3,597 mL
                                                                    820 mL
   PO:
   TF:
                                                                     85 mL
   IVF:
                                                                  2,433 mL
                                                                    350 mL
   Blood products:
   Total out:
                                                                  2,620 mL
                                                                    717 mL
   Urine:
                                                                  1,770 mL
                                                                    467 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                    977 mL
                                                                    103 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 264 (147 - 322) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 28
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 186
   PIP: 8 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: ///29/
   NIF: -21 cmH2O
   Ve: 6.2 L/min
   Physical Examination
   Gen: Intubated, sedated
   Resp: tacchypneic, clear anteriorly
   Cards: rrr no m/r/g
   Abd: soft, nt/nd, no guarding
   Ext: Contracted, WWP, no c/c/e
   Labs / Radiology
   122 K/uL
   8.0 g/dL
   118 mg/dL
   1.0 mg/dL
   29 mEq/L
   5.5 mEq/L
   15 mg/dL
   109 mEq/L
   140 mEq/L
   24.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2115-2-17**]  02:40 PM
                             [**2115-2-18**]  02:29 AM
                             [**2115-2-18**]  04:00 PM
                             [**2115-2-19**]  01:32 AM
                             [**2115-2-19**]  03:31 AM
                             [**2115-2-20**]  01:00 AM
                             [**2115-2-20**]  08:19 AM
                             [**2115-2-20**]  04:27 PM
                             [**2115-2-20**]  10:27 PM
                             [**2115-2-21**]  04:15 AM
   WBC
   9.4
   10.1
   7.6
   6.5
   Hct
   30.9
   29.2
   28.6
   27.1
   24.1
   25.6
   17
   24.8
   Plt
   107
   110
   109
   122
   Cr
   0.5
   0.4
   0.4
   0.4
   0.5
   0.7
   0.8
   1.0
   TropT
   <0.01
   TCO2
   36
   Glucose
   137
   141
   104
   106
   98
   132
   109
   118
   Other labs: PT / PTT / INR:17.0/29.2/1.5, CK / CKMB /
   Troponin-T:29//<0.01, ALT / AST:[**9-30**], Alk Phos / T Bili:80/0.3,
   Amylase  Lipase:62/19, Lactic Acid:0.9 mmol/L, Albumin:2.5 g/dL,
   LDH:158 IU/L, Ca++:8.1 mg/dL, Mg++:2.8 mg/dL, PO4:3.5 mg/dL
                                                                [**2115-2-21**]
                                                                    06:00a
   _______________________________________________________________________
   Source: Line-cvl; Vancomycin @ Trough
   Other Blood Chemistry:
   Vanco: 72.3
                                                                [**2115-2-21**]
                                                                    07:53a
   _______________________________________________________________________
                                     pH
                                    7.37
                                    pCO2
                                     45
                                     pO2
                                     43
                                    HCO3
                                     27
                                   BaseXS
                                      0
    Assessment and Plan
   34M cerebral palsy initially p/w concern for abdominal infection now
   reintubated for respiratory failure.
   # Renal insufficiency: [**Last Name (un) 2406**] with Cr at 1.0 from baseline 0.3-0.4. Likely
   multifactorial with series of renal insults including hypovolemia
   followed by infection (with Foley) and then medications (including ABX)
   with possible AIN. CVP 10-15. Unwell week prior to admission, likely
   poor PO intake.
   - UA, Ulytes, UEos
   - holding vanc and tobra
   - consider renal consult
   - give another 500cc NS
   # Abdominal pain: Patient with finding of SMV thrombus with collaterals
   indicative of a chronic process.  Surgery and Vascular involved,
   suspect [**1-15**] to low flow state in setting of chronic pancreatitis. No
   e/o malignancy at this point. Patient started on heparin gtt. Also with
   diffuse bowel edema concerning for bowel ischemia / congestion. No e/o
   localized infection overlying inflammation at this point (though s/p
   paracentesis x 2, both with > 1000 WBC). Given compromised bowel wall,
   at high risk for translocation of bacteria.
    - Continue Zosyn (14 day total course)
    - D/C vanc given high levels
    - Continue Lovenox (30 mg [**Hospital1 **] per Pharmacy given decreased renal
   function; if improves increase to 40 mg [**Hospital1 **])
    - Vascular recs / Surgery recs
    - Follow-up cultures
    - Send repeat C.diff given fevers
   - GI recommendations
   - Hold tube feeds (started overnight) for extubation
   - Cont TPN across the day, order for tomorrow but hope to wean if can
   - Start pancreatic enzymes
   - f/u with [**First Name8 (NamePattern2) 10376**] [**Last Name (NamePattern1) 10339**] re: potential syndrome
   - check celiac disease labs
   # Respiratory failure: Treating for HAP/VAP with
   Vanc/Zosyn/Tobramycin.  ID said no to Amikacin.  With LLL infiltrate on
   CXR (persistent) but new since admission.  Afebrile the night prior to
   transfer but with continued heavy secretions.  No appreciable changes
   in ventilator settings.  Following VBGs given too contracted for ABG.
   Family endorses heavy secretions at baseline. NIF today showing
   significant component of NM contribution.
     - Scopolamine patch (Cyproheptadine at home)
     - Goal fluid balance of even
     - d/c vanc and tobra
     - continue Cefepime x 14 days total
     - Trial pressure support today and ? extubation
   # Fever: Intermittent since admission on [**2-10**], [**2-19**].  Could be [**1-15**]
   ischemia; other possible sources of infection include pulmonary with
   some infiltrate on his CXR but he is without a leukocytosis.  Does have
   prominent secretions per primary Surgical team.
    - Antibiotics as above (cont Zosyn, stopping Vanc and Tobra)
    - Follow-up Micro
    - Culture if febrile
    - UA
   # Hypotension: Per family, patient's baseline BP high 70s - low 80s.
   Per nursing, also newly bradycardic and hypotensive (SBP 70s) overnight
   on [**2115-2-19**].  Could be [**1-15**] vagal tone with ET/CVL but also consider
   infectious process. Previously responded to Albumin and 500cc bolus
   LR.  Echo (final pending) Ef=55% and no focal wall motion
   abnormalities.
    - Monitor fluid balance; goal even
    - Goal SBP 80, MAP ~60s
    - if bolus use 250-500cc
   # SMV Occlusion: SMV occulsion with plan for 6 months anticoagulation
   per Vascular recommendation.  Started on Heparin gtt for
   anticoagulation PTT 60-80, as well as daily Coumadin with Goal INR [**1-16**],
   now holding coumadin. Also noted to have diarrhea during stay (C.diff
   negative) thought to be lack of absorption due to bowel wall edema.
    - continue low dose Lovenox (discussed with vascular) at 30 qd
    - check Factor Xa level after 3^rd dose
    - Per discussion with pharmacy, will dose 30 mg SC BID (consider 40 mg
   [**Hospital1 **] if Cr improves)
    - trend PLT (increased today, but some concern for HIT)
    - send HIT antibody
    - if tolerates tube feeds may restart Coumadin in next few days
   # Anemia: Unclear source for acute on chronic anemia (baseline 35) but
   now on anticoagulation. NG lavage / guaiac negative [**2115-2-20**]. Could
   consider some dilutional component, but likely does not explain
   complete loss. No blood yet given.
    - T&C x 2U PRBC; transfuse to 21 unless e/o ischemia/bleeding
    - Monitor [**Hospital1 **] Hct now that stable
    - Continue to monitor stool guaiac
   # Thrombocytopenia: New [**2-17**].  With prior hospitalization, could
   consider new exposure to heparin with HIT.  Other medications include
   antibiotics and Leviteracitam.
    - Stop heparin
    - Start Lovenox
    - Stop Keppra
    - check HIT antibodies as above
   # Coagulopathy: Noted on admission; consider malnutrition vs
   malabsorption vs intrinsic liver disease.
    - Stop heparin, Coumadin
    - Start Lovenox [**Hospital1 **] as above
   # Hypoalbuminemia:  Noted on arrival, with similar etiology to
   coagulopathy.
    - Restart TF; support nutrition as able
    - Discuss trophic TF with Surgery
   # Cerebral Palsy: Not ambulatory at baseline; also with h/o chronic,
   intermittent diarrhea; chronic pancreatitis. Could be an undiagnosed
   syndrome. Phenobarb level within therapeutic range on admission.
    - Seizure meds as below
    - Discuss with outpatient Neurology
    - Pancreatic enzymes as diet advances
    - check free dilantin level and free phenobarb levels
   # Seizure disorder: Family describes them as 'drop seizures' with
   sudden head slumps. On Dilantin / Phenobarbital as outpatient. Patient
   transitioned to Keppra while inpatient.
    - Discuss restarting Dilantin / Phenobarbital safely with pharmacy
    - Touch base with outpatient Neurology Openheimer ([**Hospital1 883**])
    - switch to phosphenitoin
   # FEN  Euvolemic to hypovolemic / replete PRN / continue TPN for now /
   start tube feeds later today
   # PPX:
   - PPI
   - Chlorehexadine gluconate
   - Pneumoboots
   - Systemically anticoagulated
   # ACCESS: L-Subclavian CL ([**2115-2-13**]); R PIV
   # Communication: [**Female First Name (un) **] & [**Known firstname **] (Parents) [**Telephone/Fax (1) 11433**]
   # CODE: FULL
   # Dispo: ICU pending clinical improvement
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2115-2-20**] 06:02 PM 46 mL/hour
   Ensure (Full) - [**2115-2-21**] 12:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-2-14**] 03:15 AM
   20 Gauge - [**2115-2-16**] 12:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2115-02-22 07:48:00 Physician Resident Progress Note
24 Hour Events:
   - extubated yest AM, tolerated well with moderate cough; on humidified
   face mask and then nasal canula 3 L at night
   - received 2 500 cc NS boluses during day
   - Cr continued to rise to 1.2; UO good at about 60-100cc/hr
   - TPN and TFs both continued
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2115-2-20**] 12:15 PM
   Vancomycin - [**2115-2-20**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2115-2-22**] 07:14 AM
   Infusions:
   Other ICU medications:
   Fosphenytoin - [**2115-2-21**] 10:16 AM
   Pantoprazole (Protonix) - [**2115-2-21**] 08:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-2-22**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.5
   HR: 94 (64 - 98) bpm
   BP: 101/62(72) {78/35(51) - 101/76(81)} mmHg
   RR: 19 (19 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 29.3 kg (admission): 32.3 kg
   Height: 55 Inch
    CVP: 10 (6 - 18)mmHg
   Total In:
                                                                  3,394 mL
                                                                    711 mL
   PO:
   TF:
                                                                    257 mL
                                                                    157 mL
   IVF:
                                                                  1,810 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  3,517 mL
                                                                    602 mL
   Urine:
                                                                  1,567 mL
                                                                    552 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                   -123 mL
                                                                    109 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   FiO2: 70%
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   Gen:
   Labs / Radiology
   129 K/uL
   7.4 g/dL
   143 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.3 mEq/L
   16 mg/dL
   119 mEq/L
   149 mEq/L
   24.1 %
   5.4 K/uL
        [image002.jpg]
                             [**2115-2-18**]  04:00 PM
                             [**2115-2-19**]  01:32 AM
                             [**2115-2-19**]  03:31 AM
                             [**2115-2-20**]  01:00 AM
                             [**2115-2-20**]  08:19 AM
                             [**2115-2-20**]  04:27 PM
                             [**2115-2-20**]  10:27 PM
                             [**2115-2-21**]  04:15 AM
                             [**2115-2-21**]  02:49 PM
                             [**2115-2-22**]  03:57 AM
   WBC
   10.1
   7.6
   6.5
   5.4
   Hct
   28.6
   27.1
   24.1
   25.6
   17
   24.8
   24.9
   24.1
   Plt
   110
   109
   122
   129
   Cr
   0.4
   0.4
   0.5
   0.7
   0.8
   1.0
   1.2
   1.2
   TropT
   <0.01
   TCO2
   36
   Glucose
   104
   106
   98
   132
   109
   118
   94
   143
   Other labs: PT / PTT / INR:17.0/29.2/1.5, CK / CKMB /
   Troponin-T:29//<0.01, ALT / AST:[**9-26**], Alk Phos / T Bili:77/0.2,
   Amylase / Lipase:62/19, Lactic Acid:0.9 mmol/L, Albumin:2.4 g/dL,
   LDH:162 IU/L, Ca++:8.3 mg/dL, Mg++:2.7 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   34M cerebral palsy initially p/w concern for abdominal infection now
   reintubated for respiratory failure.
   # Renal insufficiency: [**Last Name (un) 2406**] with Cr at 1.2 from baseline 0.3-0.4. Likely
   multifactorial with series of renal insults including hypovolemia
   followed by infection (with Foley) and then medications (including ABX)
   with possible AIN. CVP 10-15. Unwell week prior to admission, likely
   poor PO intake.
   -Urine lytes consistent w/ ATN
   - holding vanc and tobra
   - consider renal consult
   - give another 500cc NS
   # Abdominal pain: Patient with finding of SMV thrombus with collaterals
   indicative of a chronic process.  Surgery and Vascular involved,
   suspect [**1-15**] to low flow state in setting of chronic pancreatitis. No
   e/o malignancy at this point. Patient started on heparin gtt. Also with
   diffuse bowel edema concerning for bowel ischemia / congestion. No e/o
   localized infection overlying inflammation at this point (though s/p
   paracentesis x 2, both with > 1000 WBC). Given compromised bowel wall,
   at high risk for translocation of bacteria.
    - Continue Zosyn (14 day total course)
    - D/C vanc given high levels
    - Continue Lovenox (30 mg [**Hospital1 **] per Pharmacy given decreased renal
   function; if improves increase to 40 mg [**Hospital1 **])
    - Vascular recs / Surgery recs
    - Follow-up cultures
    - Send repeat C.diff given fevers
   - GI recommendations
   - Hold tube feeds (started overnight) for extubation
   - Cont TPN across the day, order for tomorrow but hope to wean if can
   - Start pancreatic enzymes
   - f/u with [**First Name8 (NamePattern2) 10376**] [**Last Name (NamePattern1) 10339**] re: potential syndrome
   - check celiac disease labs
   # Respiratory failure: Treating for HAP/VAP with
   Vanc/Zosyn/Tobramycin.  ID said no to Amikacin.  With LLL infiltrate on
   CXR (persistent) but new since admission.  Afebrile the night prior to
   transfer but with continued heavy secretions.  No appreciable changes
   in ventilator settings.  Following VBGs given too contracted for ABG.
   Family endorses heavy secretions at baseline. NIF today showing
   significant component of NM contribution.
     - Scopolamine patch (Cyproheptadine at home)
     - Goal fluid balance of even
     - d/c vanc and tobra
     - continue Cefepime x 14 days total
   # Fever: Intermittent since admission on [**2-10**], [**2-19**].  Could be [**1-15**]
   ischemia; other possible sources of infection include pulmonary with
   some infiltrate on his CXR but he is without a leukocytosis.  Does have
   prominent secretions per primary Surgical team.
    - Antibiotics as above (cont Zosyn, stopping Vanc and Tobra)
    - Follow-up Micro
    - Culture if febrile
    - UA
   # Hypotension: Per family, patient's baseline BP high 70s - low 80s.
   Per nursing, also newly bradycardic and hypotensive (SBP 70s) overnight
   on [**2115-2-19**].  Could be [**1-15**] vagal tone with ET/CVL but also consider
   infectious process. Previously responded to Albumin and 500cc bolus
   LR.  Echo (final pending) Ef=55% and no focal wall motion
   abnormalities.
    - Monitor fluid balance; goal even
    - Goal SBP 80, MAP ~60s
    - if bolus use 250-500cc
   # SMV Occlusion: SMV occulsion with plan for 6 months anticoagulation
   per Vascular recommendation.  Started on Heparin gtt for
   anticoagulation PTT 60-80, as well as daily Coumadin with Goal INR [**1-16**],
   now holding coumadin. Also noted to have diarrhea during stay (C.diff
   negative) thought to be lack of absorption due to bowel wall edema.
    - continue low dose Lovenox (discussed with vascular) at 30 qd
    - check Factor Xa level after 3^rd dose
    - Per discussion with pharmacy, will dose 30 mg SC BID (consider 40 mg
   [**Hospital1 **] if Cr improves)
    - trend PLT (increased today, but some concern for HIT)
    - send HIT antibody
    - if tolerates tube feeds may restart Coumadin in next few days
   # Anemia: Unclear source for acute on chronic anemia (baseline 35) but
   now on anticoagulation. NG lavage / guaiac negative [**2115-2-20**]. Could
   consider some dilutional component, but likely does not explain
   complete loss. No blood yet given.
    - T&C x 2U PRBC; transfuse to 21 unless e/o ischemia/bleeding
    - Monitor [**Hospital1 **] Hct now that stable
    - Continue to monitor stool guaiac
   # Thrombocytopenia: New [**2-17**].  With prior hospitalization, could
   consider new exposure to heparin with HIT.  Other medications include
   antibiotics and Leviteracitam.
    - Stop heparin
    - Start Lovenox
    - Stop Keppra
    - check HIT antibodies as above
   # Coagulopathy: Noted on admission; consider malnutrition vs
   malabsorption vs intrinsic liver disease.
    - Stop heparin, Coumadin
    - Start Lovenox [**Hospital1 **] as above
   # Hypoalbuminemia:  Noted on arrival, with similar etiology to
   coagulopathy.
    - Restart TF; support nutrition as able
    - Discuss trophic TF with Surgery
   # Cerebral Palsy: Not ambulatory at baseline; also with h/o chronic,
   intermittent diarrhea; chronic pancreatitis. Could be an undiagnosed
   syndrome. Phenobarb level within therapeutic range on admission.
    - Seizure meds as below
    - Discuss with outpatient Neurology
    - Pancreatic enzymes as diet advances
    - check free dilantin level and free phenobarb levels
   # Seizure disorder: Family describes them as 'drop seizures' with
   sudden head slumps. On Dilantin / Phenobarbital as outpatient. Patient
   transitioned to Keppra while inpatient.
    - Discuss restarting Dilantin / Phenobarbital safely with pharmacy
    - Touch base with outpatient Neurology Openheimer ([**Hospital1 883**])
    - switch to phosphenitoin
   # FEN  Euvolemic to hypovolemic / replete PRN / continue TPN for now /
   start tube feeds later today
   # PPX:
   - PPI
   - Chlorehexadine gluconate
   - Pneumoboots
   - Systemically anticoagulated
   # ACCESS: L-Subclavian CL ([**2115-2-13**]); R PIV
   # Communication: [**Female First Name (un) **] & [**Known firstname **] (Parents) [**Telephone/Fax (1) 11433**]
   # CODE: FULL
   # Dispo: ICU pending clinical improvement
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2115-2-21**] 03:12 PM 25 mL/hour
   TPN w/ Lipids - [**2115-2-21**] 05:11 PM 46 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2115-2-14**] 03:15 AM
   20 Gauge - [**2115-2-16**] 12:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: